US05714609
A. 3-(1,1-DIMETHYL-1-ETHYL)-8-CHLORO-5,6-DIHYDRO-11H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDIN-11-ONE
To a mixture of 20.05 grams (82.28 mmol) of 8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-one in 400 ml of dry THF at -72° C. and under an atmosphere of nitrogen was added dropwise over 40 minutes 66.0 ml of 2.7M t-butyl magnesium chloride in THF. The reaction mixture was slowly warmed to room temperature and stirred overnight. The mixture was then poured into 10% aqueous ammonium chloride and extracted four times with CH2Cl2. The combined organic portions were dried over MgSO4, filtered, and concentrated in vacuo to give the title tom pound, along with 8-chloro-11-(1,1-dimethyl-1-ethyl)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ol. These compounds were separated via flash chromatography to give the title compound, which was recrystallized from isopropyl ether to give 4.37 grams (18%) of the title compound as a white solid.

reactant | 8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-one | 82.28 mmol, 20.05 grams | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=O)C1 | C14H10ClNO
reactant | t-butyl magnesium chloride | 2.7M, 66.0 ml | C(C)(C)(C)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | 8-chloro-11-(1,1-dimethyl-1-ethyl)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ol | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2(O)C(C)(C)C)C1 | C18H20ClNO
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | 3-(1,1-DIMETHYL-1-ETHYL)-8-CHLORO-5,6-DIHYDRO-11H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDIN-11-ONE | CC(C)(C)C=1C=C2C(=NC1)C(C1=C(CC2)C=C(C=C1)Cl)=O | C18H18ClNO
